US08686005B2
4-Chloro-2-{4-[3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione:
A solution of 4-chloro-2-(4-chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione (18 mg, 0.04 mmol), (R)-1-amino-3-(2,4-dimethyl-phenoxy)-propan-2-ol (12.0 mg, 0.06 mmol) and Et3N (0.2 mL, 1.43 mmol) in EtOH (2.0 mL) was heated at 100° C. for 19 h and then concentrated to result a residue which was subjected to HPLC purification to furnish the title compound in TFA salt form (3.98 mg, 14%). 1H NMR (DMSO-d6) δ 1.95 (m, 2H), 2.15 (s, 3H), 2.19 (s, 3H), 2.51 (m, 2H), 2.80 (s, 3H), 3.18 (m, 2H), 3.50-3.80 (4H), 4.02 (m, 2H), 4.15 (m, 1H), 4.30 (m, 1H), 5.50 (br s, 1H, NH), 6.25 (d, J=8 Hz, 1H), 6.80-6.94 (3H), 7.40 (m, 1H), 8.08 (s, 1H), 9.49 (br s, 1H), 10.90 (br s, 1H), 11.36 (d, J=6 Hz, 1H); ESI-MS m/z 605.3 (MH+).

reactant | 4-chloro-2-(4-chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione | 0.04 mmol, 18 mg | ClC1=C2N=C(NC2=CC=2C(N(C(C12)=O)C1CCN(CC1)C)=O)C=1C(NC=CC1Cl)=O | C20H17Cl2N5O3
reactant | (R)-1-amino-3-(2,4-dimethyl-phenoxy)-propan-2-ol | 0.06 mmol, 12.0 mg | NC[C@H](COC1=C(C=C(C=C1)C)C)O | C11H17NO2
reactant | Et3N | 1.43 mmol, 0.2 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 2.0 mL | CCO | C2H6O
product | 4-Chloro-2-{4-[3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione | ClC1=C2N=C(NC2=CC=2C(N(C(C12)=O)C1CCN(CC1)C)=O)C=1C(NC=CC1NCC(COC1=C(C=C(C=C1)C)C)O)=O | C31H33ClN6O5
